US08106221B2
Step 2. methyl (4S,10R)-10-(3-chlorophenyl)-6-oxo-7-propyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)-11-oxa-2,5,7-triazatridecan-13-ylcarbamate
2-(trimethylsilyl)ethyl (S)-2-(3-((R)-3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-propylureido)-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate (31 mg) was treated with (V/V) 20% TFA/CH2Cl2 (2 mL) for 1 hr. The excess reagent was evaporated and the crude material was purified via preparative HPLC to afford the desired product (25.7 mg). LC-MS (3 min) tR=1.36 m/z=527. 1H NMR (CD3OD) d 7.25-7.35 (m, 4H), 4.30 (t, 1H), 4.10 (m, 1H), 3.89 (dd, 1H), 3.83 (m, 1H), 3.63 (s, 3H), 3.36-3.42 (m, 4H), 3.27 (m, 3H), 3.05-3.17 (m, 3H), 2.97 (t, 1H), 2.71 (s, 3H), 1.82-1.92 (m, 3H), 0.91 (t, 3H).

reactant | 2-(trimethylsilyl)ethyl (S)-2-(3-((R)-3-(2-(methoxycarbonylamino)ethoxy)-3-(3-chlorophenyl)propyl)-3-propylureido)-3-((R)-tetrahydro-2H-pyran-3-yl)propyl(methyl)carbamate | 31 mg | COC(=O)NCCO[C@H](CCN(C(N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)C[C@@H]1COCCC1)=O)CCC)C1=CC(=CC=C1)Cl | C32H55ClN4O7Si
reactant | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl (4S,10R)-10-(3-chlorophenyl)-6-oxo-7-propyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)-11-oxa-2,5,7-triazatridecan-13-ylcarbamate | 25.7 mg | ClC=1C=C(C=CC1)[C@@H](CCN(C(N[C@H](CNC)C[C@@H]1COCCC1)=O)CCC)OCCNC(OC)=O | C26H43ClN4O5
